US03966938
cis-8,9-Dimethoxy-2-methyl-6-(3,4-dimethylphenyl)-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine.
cis-3-(3,4-Dimethoxyphenyl)-1-methyl-4-(3,4-dimethylbenzoylamino)-piperidine is cyclized in analogy to the process described in Example 1 b). The bis-hydrogen maleate of the title compound has a M.P. of 182°-184° (from ethanol).

reactant | cis-3-(3,4-Dimethoxyphenyl)-1-methyl-4-(3,4-dimethylbenzoylamino)-piperidine | COC=1C=C(C=CC1OC)[C@@H]1CN(CC[C@@H]1NC(C1=CC(=C(C=C1)C)C)=O)C | C23H30N2O3
reactant | bis-hydrogen maleate | C(\C=C/C(=O)O)(=O)O | C4H4O4
product | cis-8,9-Dimethoxy-2-methyl-6-(3,4-dimethylphenyl)-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC(=C(C=C2)C)C)C1)OC | C23H28N2O2
